US06903120B2
A suspension of 1-(3-methanesulfonyl-phenyl)-piperazine (350 mg) and ground K2CO3 (403 mg) was stirred in CH3CN (25 mL) at room temperature. 1-Iodo-propane (712 μL) was added. The mixture was refluxed overnight. The reaction mixture was filtered and the volatiles were evaporated in vacuum. The oily residue was chromatographed on a silica column with MeOH:CH2Cl2 (1:30 (v/v)) as eluent. Collection of the fractions containing pure product and evaporation of the solvent afforded pure 1-(3-methanesulfonyl-phenyl)-4-propyl-piperazine (220 mg). The amine was converted into the HCl salt and recrystallized from ethanol/diethylether: m.p. 233° C. MS m/z (relative intensity, 70 eV) 282 (M+, 30), 254 (15), 253 (bp), 210 (17), 70 (21).

reactant | 1-(3-methanesulfonyl-phenyl)-piperazine | 350 mg | CS(=O)(=O)C=1C=C(C=CC1)N1CCNCC1 | C11H16N2O2S
reactant | K2CO3 | 403 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-Iodo-propane | 712 μL | ICCC | C3H7I
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | 1-(3-methanesulfonyl-phenyl)-4-propyl-piperazine | 220 mg | CS(=O)(=O)C=1C=C(C=CC1)N1CCN(CC1)CCC | C14H22N2O2S
